US09382228B2
A solution of spiro[3.3]heptane-2-carboxylic acid (0.5 g, 3.57 mmol) in DCM (5 mL) was treated with oxalyl chloride (0.406 mL, 4.64 mmol) and 1 drop of DMF and stirred at RT for 2 h. The mixture was added drop-wise to a mixture of NH4OH (5 mL, 128 mmol) and THF (5 mL) and stirred at RT overnight. The mixture was treated with H2O, the solids removed via filtration, the filtrate saturated with solid NaCl, extracted with 3:1 DCM/THF (3×) and the combined organics were washed with satd. NaHCO3, then brine, dried over Na2SO4 and concentrated to dryness to afford spiro[3.3]heptane-2-carboxamide (440 mg, 89%). 1H NMR (400 MHz, DMSO-d6): δ 7.07 (s, 1H), 6.62 (s, 1H), 2.76 (m, 1H), 2.01 (m, 4H), 1.96 (t, J=7.2 Hz, 2H), 1.80 (m, 2H), 1.76-1.69 (m, 2H).

reactant | spiro[3.3]heptane-2-carboxylic acid | 3.57 mmol, 0.5 g | C1C(CC12CCC2)C(=O)O | C8H12O2
reactant | oxalyl chloride | 4.64 mmol, 0.406 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NH4OH | 128 mmol, 5 mL | [NH4+].[OH-]
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | spiro[3.3]heptane-2-carboxamide | 440 mg, 89% | C1C(CC12CCC2)C(=O)N | C8H13NO
